US07968573B2
According to the same manner as that of Reference Preparation Example 71-(5), 4-bromo-1-(3-cyano-2-pyridinyl)-1H-pyrrole-2-carboxylic acid and 2-amino-3,5-dibromobenzoic acid were used in place of 4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid and 2-amino-5-chloro-3-methylbenzoic acid respectively to obtain 6,8-dibromo-2-[4-bromo-1-(3-cyano-2-pyridinyl)-1H-pyrrol-2-yl]-4H-3,1-benzoxazine-4-one of the formula:

reactant | 4-bromo-1-(3-cyano-2-pyridinyl)-1H-pyrrole-2-carboxylic acid | BrC=1C=C(N(C1)C1=NC=CC=C1C#N)C(=O)O | C11H6BrN3O2
reactant | 2-amino-3,5-dibromobenzoic acid | NC1=C(C(=O)O)C=C(C=C1Br)Br | C7H5Br2NO2
reactant | 4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxylic acid | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)O | C10H6BrClN2O2
reactant | 2-amino-5-chloro-3-methylbenzoic acid | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
product | 6,8-dibromo-2-[4-bromo-1-(3-cyano-2-pyridinyl)-1H-pyrrol-2-yl]-4H-3,1-benzoxazine-4-one | BrC=1C=C(C2=C(C(OC(=N2)C=2N(C=C(C2)Br)C2=NC=CC=C2C#N)=O)C1)Br | C18H7Br3N4O2
